US07312241B2
Pyridinium chlorochromate (2.6 g, 12.2 mmol) and Celite (1 g) was added to a stirred solution of (4-methoxy-3-nitro-phenyl)-(3,4-dimethoxy-phenyl)-methanol (2.6 g, 8.1 mmol) in CH2Cl2 (100 mL). The mixture was stirred for 4 h at room temperature then filtered through Celite. The filtrate was washed with water (2×40 mL), brine (40 mL) and dried (MgSO4). Solvent was removed and the residue was purified by flash chromatography (silica gel, CH2Cl2:EtOAc 95:5) to give (4-methoxy-3-nitro-phenyl)-(3,4-dimethoxy-phenyl)-methanone (2.0 g, 76%): 1H NMR (CDCl3) δ 8.29 (d, J=2 Hz, 1H), 8.07-8.03 (dd, J=2, 8 Hz, 1H), 7.34 (d, J=1 Hz, 1H), 7.35-7.26 (dd, J=2, 8 Hz, 1H), 7.21 (d, J=8 Hz, 1H), 6.94 (d, J=8 Hz, 1H), 4.06 (s. 3H), 3.98 (s, 3H), 3.95 (s, 3H); 13C NMR (CDCl3) δ 192.10, 155.48, 153.34, 149.29, 139.01, 135.57, 130.35, 129.49, 127.60, 124.94, 113.14, 111.98, 109.96, 56.86, 56.13, 56.07.

reactant | Pyridinium chlorochromate | 12.2 mmol, 2.6 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | (4-methoxy-3-nitro-phenyl)-(3,4-dimethoxy-phenyl)-methanol | 8.1 mmol, 2.6 g | COC1=C(C=C(C=C1)C(O)C1=CC(=C(C=C1)OC)OC)[N+](=O)[O-] | C16H17NO6
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (4-methoxy-3-nitro-phenyl)-(3,4-dimethoxy-phenyl)-methanone | 2.0 g, 76% | COC1=C(C=C(C=C1)C(=O)C1=CC(=C(C=C1)OC)OC)[N+](=O)[O-] | C16H15NO6
